US08426411B2
To ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (3.52 g, 18.9 mmol, Preparation #P.1) in DCM (21 mL) at about 0° C. was added aqueous potassium hydroxide (50%, 21 mL, 189 mmol), tetrabutylammonium hydrogen sulfate (0.64 g, 1.891 mmol) and 2,2,2-trichloroacetonitrile (9.5 mL, 95 mmol). The reaction mixture was allowed to warm to ambient temperature and stirred at ambient temperature for about 14 h. The layers were separated and the aqueous layer was extracted with DCM (4×60 mL). The combined organic layers were washed with water (2×50 mL), brine (60 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure. The material was purified by silica gel chromatography eluting with a gradient of 15-50% EtOAc in heptane to afford ethyl 2-ethyl-4-(2,2,2-trichloro-1-iminoethoxy)cyclopentanecarboxylate (2.80 g, 45%) as a colorless oil: LC/MS (Table 1, Method b) Rt=2.91 min; MS m/z: 330 (M+H)+.

reactant | ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | 18.9 mmol, 3.52 g | C(C)C1C(CC(C1)O)C(=O)OCC | C10H18O3
reactant | potassium hydroxide | 189 mmol, 21 mL | [OH-].[K+]
reactant | 2,2,2-trichloroacetonitrile | 95 mmol, 9.5 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | DCM | 21 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 1.891 mmol, 0.64 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | ethyl 2-ethyl-4-(2,2,2-trichloro-1-iminoethoxy)cyclopentanecarboxylate | 2.80 g, 45% | C(C)C1C(CC(C1)OC(C(Cl)(Cl)Cl)=N)C(=O)OCC | C12H18Cl3NO3
